US07060697B2
To a solution of 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl (185 mg, 0.4230 mmol, 1 eq.) in anhydrous DCM (7 mL) is added azetidine-3-carboxylic acid methyl ester (HCl salt, 96 mg, 0.6345 mmol, 1.5 eq.) and DIEA (0.74 mL, 4.230 mmol, 10 eq.). The mixture is stirred at room temperature for 3 h. The reaction mixture is applied directly to silica gel chromatography (gradient from 5:1 hexanes/EtOAc to 1:2 hexanes/EtOAc) to give 1-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid methyl ester.

reactant | 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl | 0.4230 mmol, 185 mg, 1 eq. | BrCC1=CC=C(CSC2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H16BrF3S
reactant | azetidine-3-carboxylic acid methyl ester | 0.6345 mmol, 96 mg, 1.5 eq. | COC(=O)C1CNC1 | C5H9NO2
reactant | DIEA | 4.230 mmol, 0.74 mL, 10 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C26H24F3NO2S
